US08053440B2
2-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenoxy)acetic acid was synthesized from 2-amino-4,6-dimethoxy-benzamide and (4-formyl phenoxy)acetic acid, using the method described for 2-(4-hydroxyphenyl)-5,7-dimethoxyquinazolin-4(3H)-one. 2-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenoxy)acetic acid (135 mg, 21%) was isolated as an off-white solid. Selected data: MS (m/z): 357.04; MP 287-290° C.

reactant | 2-amino-4,6-dimethoxy-benzamide | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | (4-formyl phenoxy)acetic acid | C(=O)C1=CC=C(OCC(=O)O)C=C1 | C9H8O4
reactant | 2-(4-hydroxyphenyl)-5,7-dimethoxyquinazolin-4(3H)-one | OC1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C16H14N2O4
product | 2-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenoxy)acetic acid | 135 mg, 21% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(OCC(=O)O)C=C1)=O | C18H16N2O6
